Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid / Macrobid
 
Attending: ___.
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a history of recurrent ovarian carcinoma on 
chemotherapy
who presents with 3 days of weakness. The patient received her
first round of chemotherapy on ___ and has felt weak
since then. She initially had pleuritic chest pain and was
advised to come in for an evaluation on ___. She had a 
normal
EKG and normal CTA at that time. The chest discomfort resolved.
She has still felt persistently weak since then. She reports 
that
she previously hasn't felt this weak with previous doses of
carboplatin. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- ___ presented at ___ with acute RLQ
abdominal pain. CT notable for 6.3 cm right ovarian cyst.
- ___ right ovarian laparoscopic cystectomy, 6-7 cm cyst
removed with intra-operative rupture, by report there was no
ovarian surface involvement by tumor. ___ path review: high
grade serous carcinoma.
- ___ CA 125 (Quest) 93
- ___ to OR (___) laparoscopy converted to laparotomy 
with
TAH/BSO, pelvic tumor resection, total pelvic lymphadenectomy,
para-aortic LN resection, infracolic omemtectomy, peritoneal
biopsies: ovarian serous carcinoma, no positive LNs, right 
pelvic
sidewall positive for carcinoma, grade 3, with positive 
washings,
thus staged as IIc.
- ___ C1D1 ___ taxol complicated by taxol reaction
- ___ ___ x 6 cycles
- ___ BRCA negative
- ___ CA125
- ___ CT scan shows disease recurrence- seen by Dr. ___ possible surgical resection
- ___ Diagnostic laparoscopy, resection of pelvic nodule.
- ___- C1D1 Carboplatin AUC 4 every 4 weeks
- ___- Carboplatin changed to Q5 weeks due to
thrombocytopenia
- ___ C4D1 
- ___ Type and Screen revealed Anti-C antibody
- ___ CT torso- no evidence of local recurrent or 
metastatic
disease within the abdomen or 
pelvis. Stable left pelvic sidewall nodule and adjacent external
iliac lymphocele. Given treatment break.
- ___  Percutaneous pinning left femoral neck
- ___ slight rise in CA125 from 16 to 22. 
- ___ Start C1 Carboplatin AUC 5- c/b chest pain- sent to ED
with negative cardiac w/u
- ___ C2 Carboplatin 
 
PAST MEDICAL HISTORY:  
- Developmental delay with learning disability attributed to
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS
 
Social History:
___
Family History:
FH:
No cancer in first degree relatives. 

 (per OMR):
- paternal grand-aunt with breast ca in her ___
- maternal great-uncle with colon ca
- paternal great grandmother with ovarian ca
 
Physical Exam:
ADMISSION EXAM
=========================
Vitals:  98.1  114/81  87  18  99/RA 
GENERAL:  well-appearing, sits up easily in bed, pleasant, NAD
HEENT:  PERRL, EOMI. MMM. No oral/mucosal lesions
NECK:  No LAD.
LUNGS:  CTAB, no W/R/C
CV:  RRR, S1+S2, no M/R/G
ABD:  non-distended, soft, mild periumbilical TTP, no rebound or
guarding. Hypoactive BS.
EXT:  WWP, no edema
SKIN:  warm, no rashes or lesions noted
NEURO:  alert, oriented to self, ___, ___. Moving
all 4 extremities with purpose. Ambulatory.
 
DISCHARGE EXAM
=========================
Vital signs stable
GENERAL: well-appearing, sits up easily in bed, pleasant, NAD
HEENT: PERRL, EOMI. MMM. No oral/mucosal lesions
LUNGS: CTAB, no W/R/C
CV: Regular rate & rhythm, no murmurs
ABD: non-distended, soft, non-tender, non-distended
EXT: WWP, no edema
SKIN: warm, no rashes or lesions noted
 
Pertinent Results:
ADMISSION LABS
=======================
___ 10:50AM BLOOD WBC-5.3 RBC-4.20 Hgb-11.0* Hct-34.8 
MCV-83 MCH-26.2 MCHC-31.6* RDW-16.1* RDWSD-48.5* Plt ___
___ 10:50AM BLOOD Neuts-67.2 ___ Monos-8.4 Eos-1.5 
Baso-0.2 Im ___ AbsNeut-3.53# AbsLymp-1.18* AbsMono-0.44 
AbsEos-0.08 AbsBaso-0.01
___ 10:50AM BLOOD Plt ___
___ 10:50AM BLOOD Glucose-100 UreaN-16 Creat-1.0 Na-140 
K-4.0 Cl-100 HCO3-25 AnGap-15
___ 11:00AM BLOOD Lactate-1.5
___ 03:57PM BLOOD Lactate-1.3
___ 01:17PM URINE Color-Straw Appear-Clear Sp ___
___ 01:17PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 01:17PM URINE RBC-<1 WBC-4 Bacteri-NONE Yeast-NONE 
Epi-<1 TransE-<1
___ 01:17PM URINE Mucous-RARE*
 
PERTINENT LABS
=======================
___ 04:59AM BLOOD WBC-3.9* RBC-3.79* Hgb-10.0* Hct-31.4* 
MCV-83 MCH-26.4 MCHC-31.8* RDW-15.4 RDWSD-46.9* Plt ___
___ 04:59AM BLOOD Glucose-94 UreaN-16 Creat-0.9 Na-142 
K-3.9 Cl-104 HCO3-25 AnGap-13
___ 04:59AM BLOOD ALT-24 AST-19 LD(LDH)-171 AlkPhos-123* 
TotBili-0.3
___ 03:57PM BLOOD Lactate-1.3
 
DISCHARGE LABS
=======================
___ 04:59AM BLOOD WBC-3.9* RBC-3.79* Hgb-10.0* Hct-31.4* 
MCV-83 MCH-26.4 MCHC-31.8* RDW-15.4 RDWSD-46.9* Plt ___
___ 04:59AM BLOOD Plt ___
___ 04:59AM BLOOD Glucose-94 UreaN-16 Creat-0.9 Na-142 
K-3.9 Cl-104 HCO3-25 AnGap-13
___ 04:59AM BLOOD ALT-24 AST-19 LD(___)-171 AlkPhos-123* 
TotBili-0.3
___ 04:59AM BLOOD Calcium-8.7 Phos-3.2 Mg-1.7
 
MICRO
=======================
___ CULTURE-FINALEMERGENCY WARD
___ CULTUREBlood Culture, 
Routine-PENDINGEMERGENCY WARD
___ CULTUREBlood Culture, 
Routine-PENDINGEMERGENCY WARD
 
PERTINENT STUDIES
=======================
CXR (___)
Low lung volumes without acute cardiopulmonary process.
  
CTA CHEST (___)
No evidence of pulmonary embolism or aortic abnormality.
 
CXR (___)
No evidence of pneumonia.
 
Brief Hospital Course:
___ woman with a history of recurrent ovarian carcinoma 
on carboplatin (C2D1 on ___ admitted for generalized 
weakness x3 days. Exam notable for absence of focal findings 
with further workup without evidence of infection, pulmonary 
embolism, or metabolic abnormalities. Evaluated by ___ who did 
not find indication for further physical therapy sessions. Was 
discharged home with plan for continued oncology and PCP follow 
up.

#Weakness:
Initially presented with symptoms of generalized weakness, 
malaise, and decreased PO intake x3 days. Developed immediately 
following carboplatin dose on ___. Initial vitals notable 
for soft blood pressures (90s systolic) on arrival with absence 
of fever or tachycardia. Rapidly improved with saline bolus. 
Underwent infectious workup including CXR, BCx, and UCx which 
have been unremarkable to date. CTA chest with no evidence of 
pulmonary embolism or aortic abnormality. Orthostatic vital 
signs normal prior to discharge. Evaluated by physical therapy 
who found no indication for further treatment. Able to be 
discharged home with plan for regular oncology and PCP follow 
up.

#Recurrent ovarian cancer:
On carboplatin (C2D1 on ___ with palliative intent. s/p 
debulking surgery, ___ in ___. Primary oncologist 
is ___ at ___.

#Depression
#Anxiety
#IBS: 
Continued home aripriprazole, amitriptyline, duloxetine, 
lorazepam.

#Developmental delay:
Stable, at baseline. 

#Hypothyroidism: 
- levothyroxine

#Hypertension:
- losartan

TRANSITIONAL ISSUES:
[ ] WBC count down-trending (3.9 on discharge) over course of 
admission as expected given recent carboplatin dose on ___. 
Recommend usual outpatient oncology follow up and/or return to 
ED if any fevers or infectious symptoms develop.
[ ] Incidental alk phos elevation to 123 without abdominal 
symptoms. Consider re-checking as outpatient to ensure 
resolution.

#CODE STATUS: full (confirmed)
#CONTACT: ___, mother, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
2. Amitriptyline 25 mg PO QHS 
3. ARIPiprazole 2 mg PO QHS 
4. DULoxetine 120 mg PO DAILY 
5. Gabapentin 600 mg PO QHS 
6. Levothyroxine Sodium 50 mcg PO 6X/WEEK (___) 
7. Levothyroxine Sodium 100 mcg PO 1X/WEEK (___) 
8. Loratadine 10 mg PO DAILY 
9. LORazepam 0.5 mg PO QHS:PRN anxiety, insomnia 
10. Losartan Potassium 50 mg PO DAILY 
11. Morphine Sulfate ___ 15 mg PO BID:PRN Pain - Severe 
12. Omeprazole 40 mg PO DAILY 
13. Ondansetron 8 mg PO Q12H:PRN nausea 
14. Polyethylene Glycol 17 g PO DAILY 
15. Prochlorperazine 10 mg PO Q12H:PRN nausea 
16. Vitamin D 1000 UNIT PO DAILY 
17. Naproxen 500 mg PO Q12H 
18. Estrogens Conjugated 1 gm VG 1X/WEEK (MO) 

 
Discharge Medications:
1.  Naproxen 500 mg PO Q12H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
3.  Amitriptyline 25 mg PO QHS  
4.  ARIPiprazole 2 mg PO QHS  
5.  DULoxetine 120 mg PO DAILY  
6.  Estrogens Conjugated 1 gm VG 1X/WEEK (MO)  
7.  Gabapentin 600 mg PO QHS  
8.  Levothyroxine Sodium 50 mcg PO 6X/WEEK (___)  
9.  Levothyroxine Sodium 100 mcg PO 1X/WEEK (___)  
10.  Loratadine 10 mg PO DAILY  
11.  LORazepam 0.5 mg PO QHS:PRN anxiety, insomnia  
12.  Losartan Potassium 50 mg PO DAILY  
13.  Morphine Sulfate ___ 15 mg PO BID:PRN Pain - Severe  
14.  Omeprazole 40 mg PO DAILY  
15.  Ondansetron 8 mg PO Q12H:PRN nausea  
16.  Polyethylene Glycol 17 g PO DAILY  
17.  Prochlorperazine 10 mg PO Q12H:PRN nausea  
18.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
weakness, unspecified

SECONDARY DIAGNOSES:
ovarian cancer
depression
anxiety
IBS
developmental delay
hypothyroidism
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

Why you were in the hospital:
 - weakness that occurred shortly after your last chemotherapy 
infusion
 - decreased appetite and oral intake

What was done for you in the hospital:
 - we obtained bloodwork, x-rays, and a CT scan to ensure there 
was no emergent cause for your weakness and other symptoms
 - you were evaluated by physical therapy who found it safe for 
you to return home

What you should do when you get home:
 - continue taking your medications as prescribed in the 
discharge papers
 - attend your follow up appointments as listed in the discharge 
papers

Wishing you the best,
Your ___ Care Team
 
Followup Instructions:
___